US09145434B2
2-(Phenoxymethyl)-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile
Alternatively, the compound described above is synthesized starting from 1-bromo-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-2-(phenoxymethyl)-benzene using copper(I) cyanide (2 equivalents) in NMP at 210° C.

reactant | 1-bromo-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-2-(phenoxymethyl)-benzene | BrC1=C(C=C(C=C1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC1=CC=CC=C1 | C27H29BrO11
reactant | copper(I) cyanide | 2 equivalents | [Cu]C#N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-(Phenoxymethyl)-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile | O(C1=CC=CC=C1)CC1=C(C#N)C=CC(=C1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H29NO11
